US07994185B2
N-({4-[4-(3-{[(2,5-difluorophenyl)sulfonyl]amino}-2-fluorophenyl)-2-(4-morpholinyl)-1,3-thiazol-5-yl]-2-pyrimidinyl}methyl)-2-methylpropanamide
To suspension of N-{3-[5-[2-(aminomethyl)-4-pyrimidinyl]-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide (0.1 g, 0.178 mmol) in dichloromethane (1.778 ml) was added HATU (0.084 g, 0.222 mmol) and 2-methylpropanoic acid (0.047 g, 0.533 mmol). The reaction mixture was stirred and heated at 55° C. After 16 h, the reaction mixture was quenched with water, extracted with DCM (2×), dried over MgSO4, filtered, and concentrated. The crude product was added to a silica gel column and eluted with DCM with 10% MeOH in DCM (5% to 40%) and collected fractions to obtain the title compound as a solid (48 mg, 42% yield). MS (ESI): 633 [M+H]+.

reactant | N-{3-[5-[2-(aminomethyl)-4-pyrimidinyl]-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 0.178 mmol, 0.1 g | NCC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C24H21F3N6O3S2
reactant | HATU | 0.222 mmol, 0.084 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-methylpropanoic acid | 0.533 mmol, 0.047 g | CC(C(=O)O)C | C4H8O2
solvent | dichloromethane | 1.778 ml | ClCCl | CH2Cl2
product | N-({4-[4-(3-{[(2,5-difluorophenyl)sulfonyl]amino}-2-fluorophenyl)-2-(4-morpholinyl)-1,3-thiazol-5-yl]-2-pyrimidinyl}methyl)-2-methylpropanamide | 48 mg, 42% yield | FC1=C(C=C(C=C1)F)S(=O)(=O)NC=1C(=C(C=CC1)C=1N=C(SC1C1=NC(=NC=C1)CNC(C(C)C)=O)N1CCOCC1)F | C28H27F3N6O4S2
